US06579983B1
1-indol-3-yl-2-cyano-3-dimethylaminopropen-1-one was prepared from 3-(cyanoacetyl) indole (4.0 g, mmol) and dimethylformamide dimethylacetal (4.1 mL, 23.9 mmol) as a yellow solid (2.4 g), m.p. 187-188°. δH (d6 DMSO) 11.73 (1H, bs), 8.26 (1H, s), 8.12 (1H, dd, J 6.8, 1.3 Hz), 7.98 (1H, s), 7.47-7.44 (1H, m), 7.20-7.09 (2H, m), 3.35 (3H, s) and 3.26 (3H, s).

reactant | 3-(cyanoacetyl) indole | 4.0 g | C(#N)CC(=O)C1=CNC2=CC=CC=C12 | C11H8N2O
reactant | dimethylformamide dimethylacetal | 23.9 mmol, 4.1 mL, 2.4 g | COC(N(C)C)OC | C5H13NO2
product | 1-indol-3-yl-2-cyano-3-dimethylaminopropen-1-one | N1C=C(C2=CC=CC=C12)C(C(=CN(C)C)C#N)=O | C14H13N3O
